US06818655B2
A solution of 1,1,1-trifluoromethanesulfonic acid 4-methoxyquinolin-2-yl ester (4.51 g, 14.7 mmol), tert-butyl N-(3-aminopropyl)carbamate (3.07 g, 17.6 mmol), and diisopropylethylamine (3.84 ml, 22.0 mmol) in anhydrous acetonitrile (35 ml) was heated at reflux for 6 days. The solution was cooled to ambient temperature then evaporated under reduced pressure to an oil. It was taken into water (35 ml) then extracted into ethyl acetate. The extracts were dried (sodium sulfate) then concentrated to an oil. Column chromatography on silica (1:1 ethyl acetate/hexanes) gave [3-(4-methoxyquinolin-2-ylamino)propyl]carbamic acid tert-butyl ester (3.10 g, 64%) as a colorless oil that solidified on standing. [M+H]+ 332.

reactant | 1,1,1-trifluoromethanesulfonic acid 4-methoxyquinolin-2-yl ester | 14.7 mmol, 4.51 g | COC1=CC(=NC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C11H8F3NO4S
reactant | tert-butyl N-(3-aminopropyl)carbamate | 17.6 mmol, 3.07 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | diisopropylethylamine | 22.0 mmol, 3.84 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | [3-(4-methoxyquinolin-2-ylamino)propyl]carbamic acid tert-butyl ester | 3.10 g, 64% | C(C)(C)(C)OC(NCCCNC1=NC2=CC=CC=C2C(=C1)OC)=O | C18H25N3O3
